US09029399B2
Preparation of Intermediate 1-(2-Chloro-ethyl)-3-(3-trifluoromethyl-phenyl)-urea (I-36a)
Using analogous reagents and reaction conditions as described in Example 1 above, 3-trifluoromethyl-phenylamine (2.0 g, 12.412 mmol) in toluene (20 mL) was reacted with 1-chloro-2-isocyanatoethane (1.96 g, 18.618 mmol to give 3.2 g of pure product (96%)

reactant | 3-trifluoromethyl-phenylamine | 12.412 mmol, 2.0 g | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
reactant | 1-chloro-2-isocyanatoethane | ClCCN=C=O | C3H4ClNO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Chloro-ethyl)-3-(3-trifluoromethyl-phenyl)-urea | 3.2 g, 96% | ClCCNC(=O)NC1=CC(=CC=C1)C(F)(F)F | C10H10ClF3N2O
